US07982071B2
Alkylation of 3-bromo-5-fluorophenol using (bromomethyl)cyclohexane following the method used in Example 1 gave 1-bromo-3-(cyclohexylmethoxy)-5-fluorobenzene. Yield (1.1 g, 73%): 1H NMR (400 MHz, CDCl3) δ 6.79-6.83 (m, 2H), 6.52 (dt, J=10.4, 2.0 Hz, 1H), 3.70 (d, J=6.0 Hz, 2H), 1.65-1.86 (m, 6H), 1.16-1.34 (m, 3H), 0.97-1.08 (m, 2H).

reactant | 3-bromo-5-fluorophenol | BrC=1C=C(C=C(C1)F)O | C6H4BrFO
reactant | (bromomethyl)cyclohexane | BrCC1CCCCC1 | C7H13Br
product | 1-bromo-3-(cyclohexylmethoxy)-5-fluorobenzene | BrC1=CC(=CC(=C1)F)OCC1CCCCC1 | C13H16BrFO
